* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADM7171-3.3.asc
* Generated by LTspice 24.1.9 for Windows.
C2 N001 0 1n
V1 IN 0 3.8
Rload OUT 0 6
C1 OUT 0 4.7µ Rser=1.5m
X§U1 IN OUT IN N001 OUT 0 ADM7171-3.3
.tran 5m startup
.lib ADM7171-3.3.sub
.backanno
.end
